US05051413
1.0 g of E-2-amino-5-phosphino-3-pentenoic acid is suspended in 20 ml ofn-butanol and the suspension is saturated with hydrogen chloride gas for 3 hours at 60°. After concentration, the residue is dissolved in 15 ml of n-butanol, 10 ml of propylene oxide are added and the precipitate isfiltered off. Recrystallisation from water/acetone 1:1 yields E-2-amino-5-phosphino-3-pentenoic acid butyl ester, m.p. 160°-161°.

reactant | E-2-amino-5-phosphino-3-pentenoic acid | 1.0 g | NC(C(=O)O)\C=C\CP | C5H10NO2P
reactant | hydrogen chloride | Cl | ClH
product | E-2-amino-5-phosphino-3-pentenoic acid butyl ester | C(CCC)OC(C(\C=C\CP)N)=O | C9H18NO2P
